US07470710B2
Description 4: (RS)-2-[(2-Hydroxy-phenylcarbamoyl)-methyl]-piperidine-1-carboxylic acid tert butyl ester
A mixture of 2-carboxymethyl-piperidine-1-carboxylic acid tert butyl ester (0.97 g), (Peschke, Bernd; Ankersen, Michael; Hansen, Birgit Sehested; Hansen, Thonmas Kruse; Johansen, Nils Langeland; Lau, Jesper; Madsen, Kjeld; Petersen, Hans; Thogersen, Henning; Watson, Brett. Eur. J. Med. Chem. (1999), 34(5), 363-380) in dimethylformamide (8.0 ml) was treated sequentially with EDC.HCl (0.76 g), 2-aminophenol (0.43 g) and 1-hydroxybenzotriazole (0.05 g). The mixture was stirred for 2 h, diluted with ethyl acetate and washed with water, dried (MgSO4) and solvent removed at reduced pressure to give the title compound (1.29 g) as a gum.

reactant | 2-carboxymethyl-piperidine-1-carboxylic acid tert butyl ester | 0.97 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)O | C12H21NO4
reactant | EDC.HCl | 0.76 g | CCN=C=NCCCN(C)C.Cl
reactant | 2-aminophenol | 0.43 g | NC1=C(C=CC=C1)O | C6H7NO
solvent | dimethylformamide | 8.0 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | 1-hydroxybenzotriazole | 0.05 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
product | (RS)-2-[(2-Hydroxy-phenylcarbamoyl)-methyl]-piperidine-1-carboxylic acid tert butyl ester | 1.29 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(NC1=C(C=CC=C1)O)=O | C18H26N2O4
